US07015218B1
3,5-Dichloro-4-(4-morpholinopiperidin-1-yl)aniline
By the reaction and treatment in the same manner as in Starting Material Synthesis Example 40 using 3,4,5-trichloronitrobenzene and 4-morpholinopiperidine, the title compound was obtained, melting point: 144–146° C.

reactant | 3,4,5-trichloronitrobenzene | ClC=1C=C(C=C(C1Cl)Cl)[N+](=O)[O-] | C6H2Cl3NO2
reactant | 4-morpholinopiperidine | O1CCN(CC1)C1CCNCC1 | C9H18N2O
product | 3,5-Dichloro-4-(4-morpholinopiperidin-1-yl)aniline | ClC=1C=C(N)C=C(C1N1CCC(CC1)N1CCOCC1)Cl | C15H21Cl2N3O
